US04397860
(a) 2-Hydroxymethyl-2-ethyl-1,4-benzodioxan
A stirred mixture of catechol (14.0 g), 2-ethyl-epichlorohydrin (15.3 g), sodium hydroxide (5.1 g) and water (50 ml) was heated at 90° under an atmosphere of nitrogen for 4 hours. On cooling water was added and the product was extracted with methylene chloride. The combined extracts were washed with 2 N aqueous sodium hydroxide solution, water and brine, dried and evaporated to leave an oil (10.8 g); IR νmax 3650-3200, 3000-2850 cm-1.

reactant | catechol | 14.0 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | 2-ethyl-epichlorohydrin | 15.3 g | C(C)C1(CCl)CO1 | C5H9ClO
reactant | sodium hydroxide | 5.1 g | [OH-].[Na+]
solvent | water | O | H2O
solvent | water | 50 ml | O | H2O
product | 2-Hydroxymethyl-2-ethyl-1,4-benzodioxan | 10.8 g | OCC1(COC2=C(O1)C=CC=C2)CC | C11H14O3
